US06890916B2
2-(3-Hydroxypropan-1-yl)-3,4-dihydroisoquinolin-1(2H)-one
from 3,4-dihydroisoquinolin-1(2H)-one and 3-bromopropanol

reactant | 3,4-dihydroisoquinolin-1(2H)-one | C1(NCCC2=CC=CC=C12)=O | C9H9NO
reactant | 3-bromopropanol | BrCCCO | C3H7BrO
product | 2-(3-Hydroxypropan-1-yl)-3,4-dihydroisoquinolin-1(2H)-one | OCCCN1C(C2=CC=CC=C2CC1)=O | C12H15NO2
